US06630509B2
(c) N-isobutyryl-O-{2-[4-(methoxymethyl)phenyl]ethyl}tyrosine
Methyl N-isobutyryl-O-{2-[4-(methoxymethyl)phenyl]ethyl}tyrosinate (0.7 g, 1.69 mmol) was dissolved in dioxane (6 ml). Lithium hydroxide monohydrate (0.25 g, 5.95 mmol) in water (6 ml) was added. The mixture was stirred overnight and then diluted with water and evaporated in vacuum to remove dioxane. The residue was acidified with 1M hydrochloric acid, pH ˜3 and then extracted twice with dichloromethane. The organic phase was washed with brine and dried with sodium sulfate. The solvent was then evaporated. 0.67 g desired product was obtained, yield 99%.

reactant | Methyl N-isobutyryl-O-{2-[4-(methoxymethyl)phenyl]ethyl}tyrosinate | 1.69 mmol, 0.7 g | C(C(C)C)(=O)N[C@@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)COC)C(=O)OC | C24H31NO5
reactant | Lithium hydroxide monohydrate | 5.95 mmol, 0.25 g | O.[OH-].[Li+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
product | N-isobutyryl-O-{2-[4-(methoxymethyl)phenyl]ethyl}tyrosine | 0.67 g, yield 99% | C(C(C)C)(=O)N[C@@H](CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)COC)C(=O)O | C23H29NO5
